US04777176
6-Tert-butyl-2-piperidinomethyl-1,2,3,4-tetrahydronaphthalen-1-one (4.4 g, 0.015 mol) in diethyl ether (40 ml) was added to an ethereal solution of methylmagnesium iodide [prepared from methyl iodide (1.9 ml, 0.03 mol) and magnesium (0.72 g, 0.03 mol)] at such a rate as to maintain reflux. It was refluxed for 1 hour, cooled and treated with saturated ammonium chloride solution (100 ml) and refluxed for 30 minutes. The ether was separated and the aqueous extracted with further ether, the combined extracts were dried over magnesium sulphate and evaporated to give a solid residue. Purification by column chromatography using silica gel with ethyl acetate: petroleum 60°-80°, 3:7 gave 6-tert-butyl-1-methyl-2-piperidinomethyl-1,2,3,4-tetrahydronaphthalen-1-ol (3.9 g, 82% yield) a white solid melting at 113°-4°. 6-tert-butyl-1-methyl-2-piperidinomethyl-1,2,3,4-tetrahydronaphthalen-1-ol (3.7 g, 0.012 mol) was refluxed in dilute sulphuric acid (50 ml, 10%) for 45 minutes. After cooling it was neutralized with sodium hydroxide, extracted with ether, dried over magnesium sulphate and evaporated under reduced pressure to give the title compound (3.5 g, 98% yield) as a clear oil.

reactant | 6-Tert-butyl-2-piperidinomethyl-1,2,3,4-tetrahydronaphthalen-1-one | 0.015 mol, 4.4 g | C(C)(C)(C)C=1C=C2CCC(C(C2=CC1)=O)CN1CCCCC1 | C20H29NO
reactant | methylmagnesium iodide | 0.03 mol, 1.9 ml, 0.72 g | C[Mg]I
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
product | 6-tert-butyl-1-methyl-2-piperidinomethyl-1,2,3,4-tetrahydronaphthalen-1-ol | 3.9 g, 82% yield | C(C)(C)(C)C=1C=C2CCC(C(C2=CC1)(O)C)CN1CCCCC1 | C21H33NO
